US06809199B2
To a stirred solution of methyl 3,5-dibromo-4-(hydroxymethyl)benzoate (11 g, 34 mmol, 1 eq) in CH2Cl2 (50 mL) was added 2,6-dichlorophenylisocyanate (7 g, 37.2 mmol, 1.1 eq) and 4-N,N-dimethylaminopyridine (few crystals). Stirred at rt. After 15 min, the flask was thick with precipitate. Added 50 L CH2Cl2 to facilitate stirring and let stir overnight. Removed the CH2Cl2 under reduced pressure. Triturated the residue with Et2O and collected the solids giving methyl 3,5-dibromo-4-[({[(2,6-dichlorophenyl)amino]carbonyl}oxy)methyl]benzoate.

reactant | methyl 3,5-dibromo-4-(hydroxymethyl)benzoate | 34 mmol, 11 g, 1 eq | BrC=1C=C(C(=O)OC)C=C(C1CO)Br | C9H8Br2O3
reactant | 2,6-dichlorophenylisocyanate | 37.2 mmol, 7 g, 1.1 eq | ClC1=C(C(=CC=C1)Cl)N=C=O | C7H3Cl2NO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 L | C(Cl)Cl | CH2Cl2
product | methyl 3,5-dibromo-4-[({[(2,6-dichlorophenyl)amino]carbonyl}oxy)methyl]benzoate | BrC=1C=C(C(=O)OC)C=C(C1COC(=O)NC1=C(C=CC=C1Cl)Cl)Br | C16H11Br2Cl2NO4
